US07169925B2
Step F4: 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid acetoxymethyl ester
Stir at 50° C. for 10 min. a mixture of 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid (1.27 g, 5 mmol) in DMF (25 mL), and add Cs2CO3 (1.63 g, 5 mmol). After 10 min. add bromomethyl acetate (0.95 g, 6.21 mmol) and one minute thereafter quench into aqueous NH4Cl solution. Extract with EtOAc and wash the extract with aqueous NaHCO3 solution. Dry the extract (MgSO4), filter and concentrate under vacuum to give a solid. Triturate the solid with EtOAc and obtain the title compound as a solid: MS 326(M+H).

reactant | 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid | 5 mmol, 1.27 g | N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)O | C14H11N3O2
reactant | Cs2CO3 | 5 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | bromomethyl acetate | 6.21 mmol, 0.95 g | C(C)(=O)OCBr | C3H5BrO2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid acetoxymethyl ester | C(C)(=O)OCOC(=O)C=1NC2=CC=CC=C2C1NC1=CC=NC=C1 | C17H15N3O4
